Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
zinacef / cephalexin
 
Attending: ___.
 
Chief Complaint:
Sickle cell pain crisis, left ear pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y/o woman with hemoglobin SC disease c/b
multiple pain crises, acute chest syndrome, TIA, and avascular
necrosis of her R hip s/p hip replacement, recently hospitalized
___ for pain crisis and recurrent sinusitis who presented 
to
her hematology appointment with severe left ear with effusion on
exam and 4 days facial pain and, headache, and was referred to
the ED.

She has been hospitalized in ___, and ___ of this year
with pain crises and sinusitis treated with antibiotics each
time. She reports she has seen an ENT affiliated with ___
recently (no notes in OMR) but felt the evaluation was very
cursory. After her recent hospitalization she reports completing
her antibiotic course. About 1 week later her ears began to feel
"plugged" and her husband noted she was having decreased 
hearing.
About 4 days prior to admission she developed severe left sided
facial pain radiating down the side of her neck, and severe
headaches. Her pain did not improve with her home oxycodone and
tylenol, and after seeing her hematologist in clinic she was
referred to the ED for further evaluation. She reports pain now
includes L arm and feels like prior pain crises. She denies any
fevers/chills, rhinorrhea, nasal congestion, post nasal drip,
sore throat, drainage from her ears, dyspnea, chest pain,
abdominal pain, n/v, dysuria, diarrhea/constipation.

ED Course notable for: Afebrile, BP elevated to 170/90 on
presentation, HR and O2 within normal limits. Left TM
erythematous and bulging. Labs with persistent leukocytosis to
14.8. CXR w/o acute abnormality, CT neck and sinus were ordered
but not completed due to code help. Received 1mg hydromorphone
boluses for pain control, ampicillin-sulbactam, 1 L NS and
maintenance NS @ 150/hr

REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI
 
Past Medical History:
Hemoglobin SC disease (h/o stroke ___ and multiple episodes of
acute chest syndrome)
Depression
Avascular necrosis s/p R hip replacement ___
s/p L hip replacement ___ 

 
Social History:
___
Family History:
multiple family members with sickle cell SC
disease (mother has trait)

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: ___ 0035 Temp: 98.2 PO BP: 183/113 HR: 77 RR: 20 O2 
sat:
96% O2 delivery: RA 
GENERAL: Lying in bed, appears mildly uncomfortable
HEENT: Anicteric sclera, MMM. L TM bulging, erythematous, R TM
w/o erythema or bulging. Maxillary and frontal sinus tenderness.
Tenderness to palpation L mastoid
NECK: supple, tenderness to palpation along left lateral neck, 
no
masses or fluctuance appreciated.
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no rashes on face, arms, or lower
legs

DISCHARGE PHYSICAL EXAM:
GENERAL: NAD, resting in bed
HEENT: PERRLA, EOMI, anicteric sclera, MMM. Bulging and 
opacified
L TM intact with no perforation or obvious effusion. R TM mild
opacification, no effusion or perforation. Nasal turbinates
enlarged and boggy. Posterior oropharynx minimally erythematous;
tonsils not erythematous or edematous.
NECK: supple, no LAD, tender to light palpation. 
CV: RRR, no g/m/r 
PULM: CTAB, no wheezes, no rales, no rhonchi
GI: NTND, bowel sounds present, no rebound, no guarding
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: A&Ox3, CNII-XII intact
DERM: Warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
ADMISSION LABS
==============
___ 12:30PM BLOOD WBC-14.8* RBC-4.46 Hgb-12.2 Hct-34.7 
MCV-78* MCH-27.4 MCHC-35.2 RDW-15.9* RDWSD-43.8 Plt ___
___ 12:30PM BLOOD UreaN-13 Creat-1.0 Na-140 K-4.9 Cl-100 
HCO3-26 AnGap-14
___ 12:30PM BLOOD Hapto-<10*

DISCHARGE LABS
==============
___ 06:13AM BLOOD WBC-13.2* RBC-4.24 Hgb-12.0 Hct-33.4* 
MCV-79* MCH-28.3 MCHC-35.9 RDW-15.9* RDWSD-44.4 Plt ___
___ 06:13AM BLOOD Glucose-128* UreaN-10 Creat-0.9 Na-140 
K-5.0 Cl-100 HCO3-23 AnGap-17
___ 06:13AM BLOOD Calcium-9.8 Phos-5.0* Mg-1.7

PERTINENT IMAGING
=================
CT NECK W/CONTRAST (EG:PAROTIDS)
Study Date of ___ 1:02 AM

1.  Dental amalgam streak artifact limits study. 
2. No deaf evidence of cervical abscess. 
3. Scattered subcentimeter nonspecific lymph nodes without 
definite 
enlargement by CT size criteria, which may be reactive. 
4. Partial opacification of bilateral mastoid air cells, better 
demonstrated 
on concurrently obtained temporal bone CT. 

CT ORBIT, SELLA & IAC W/O CONTRAST
Study Date of ___ 1:02 AM
 
1. Study is mildly degraded by motion. 
2. Grossly stable nonspecific bilateral mastoid fluid without 
definite 
destruction of mastoid septa. 
3. Minimal bilateral middle ear opacification lateral to the 
ossicles without 
definite associated osseous destruction. While findings are 
nonspecific, 
please note that cholesteatoma is not excluded on the basis of 
this 
examination. 

 
Brief Hospital Course:
This is a ___ yo F with hemoglobin SC disease c/b multiple pain 
crises, acute chest and TIA with hospitalizations in ___, 
___ and ___ of this year for acute otitis media (AOM) who 
presented with leukocytosis, bulging opaque LTM, L auricular, 
neck and mastoid pain. 

HOSPITAL COURSE BY PROBLEM LIST
#L Ear pain
#Eustachian Tube Dysfunction
#Rhinosinusitis
#Serous Otitis Media
Pt w/ admissions for AOM ___ (4d course of augmentin) and 
___ (10d course of levofloxacin). During her last 
hospitalization she was treated with two days of Unsayn then 
transitioned to a seven day course of Augmentin. CT at that time 
showed chronic sinusitis without oribital involvement. Given CT 
findings, otodynia likely represents rhinosinusitis contributing 
to increased middle ear/Eustachian tube obstruction. 
- CT Orbit, Sella and Neck w/ contrast was ordered to evaluate 
for possible mastoiditis. The study found no bony erosion or 
evidence of mastoiditis, with scattered lymph nodes in the 
bilateral cervical regions not pathologically enlarged by CT 
size criteria. The L middle ear cavity was clear.
- Pt was started on ampicillin-sulbactam 3g IV q6h for 2d then 
transitioned to doxycycline 100mg PO Q12 on day three with plan 
for 10 day course. She was continued on home fluticasone, 
started on 3d of Afrin and an oral antihistamine. She was 
scheduled for post-hospitalization f/u with ENT on ___. 

#Acute Pain Crisis
#Sickle Cell Disease
Follows with Dr. ___. Second to middle ear/sinus 
inflammation. Pt initially received 2mg IG dilaudid in ED and 
continued on 4mg PO dilaudid q4h PRN. She was given IV Fluids in 
the ED and encouraged PO intake. She was ultimately transitioned 
to oral oxycodone. Continued home folic acid. Not on hydroxyurea 
as has been trying to conceive.

TRANSITIONAL ISSUES:
===================
- Patient was noted to have elevated blood pressures this 
admission to SBP 180. Resolved to 130s after pain control. 
Continue to monitor as outpatient.
- Antibiotic plan: Doxycycline 100mg PO Q12, end of therapy 
___. This was submitted electronically and she was given a 
paper prescription. 
- Patient has follow up scheduled with ENT as outpatient. 
- Confirmed with patient's hematologist Dr. ___ never 
filled her prescription of oxycodone on ___. Refilled her 
prescription as such after discussion with hematologist on 
discharge: oxycodone 5 mg tablet ___ tablet(s) by mouth every 6 
hours as needed for severe sickle cell crisis pain do not drink 
or drive if taking 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
4. Senna 8.6 mg PO BID:PRN Constipation - First Line 
5. Sertraline 100 mg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 
7. OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Severe 
8. Acetaminophen ___ mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice per 
day Disp #*15 Tablet Refills:*0 
2.  Oxymetazoline 1 SPRY NU BID Duration: 3 Days 
RX *oxymetazoline [Afrin (oxymetazoline)] 0.05 % 1 SPRAY 
INTRANASAL TWICE PER DAY Disp #*1 Bottle Refills:*0 
3.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
4.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
5.  FoLIC Acid 1 mg PO DAILY  
6.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hours as 
needed for severe sickle cell crisis pain Disp #*60 Tablet 
Refills:*0 
7.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
8.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
9.  Sertraline 100 mg PO DAILY  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Acute Bacterial Rhinosinusitis
# Serous Otitis Media

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

WHY WAS I IN THE HOSPITAL?
_x0095_ You were admitted because you had pain in your ear and we were 
concerned about a possible sinus infection and a sickle cell 
pain crisis. 

WHAT HAPPENED TO ME IN THE HOSPITAL?
_x0095_ You had a CT, or CAT scan, of some of the bones and ___ air 
spaces, or sinuses in your head.  
_x0095_ The CT scan showed that there was no bone infection. 
_x0095_ We started medication to treat an infection of the nose and 
sinuses.  
_x0095_ You likely have ear pain because of a build up of pressure 
from your sinus inflammation. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
_x0095_ Continue to take your medications as prescribed. 
_x0095_ Please wear SPF sunscreen while outdoors as doxycycline can 
make your skin sensitive to sunburn.  Please take with glass of 
liquid and while sitting upright. 
_x0095_ Follow up with the Ear, Nose and Throat Specialists as 
scheduled. 
_x0095_ Follow up with your Hematologist. 
_x0095_ Follow up with your primary care provider. 

We wish you the best!
Your ___ Team
 
Followup Instructions:
___